US09145411B2
Step 3: N-(3-(2-(2-Aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)acetamide
To a 250 mL round bottom flask, tert-butyl (5-(7-(3-aminophenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate (1.6 g, 0.0029 mol) and DCM (160 mL) were added and the flask cooled to 0° C. To the reaction flask, trifluoroacetic acid (16 mL, 10% volume) was added at 0° C. and the reaction mixture was stirred at room temperature for 3 hours. The volatiles were evaporated under reduced pressure and methanol was added to provide a solid. The solid was collected by filtration. The solid was suspended into water and basified with saturated sodium bicarbonate solution. The reaction mixture was extracted with chloroform (3×200 mL). The organic layer was washed with water, brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to provide the crude product. The crude product was subjected to flash column chromatography using 4% methanol in chloroform. The obtained solid was washed with methanol and diethyl ether, filtered and dried under vacuum to afford the title compound as off-white solid (0.900 g, 69%). 1H NMR (400 MHz, DMSO-d6): δ 10.18 (s, 1H), 9.22 (s, 2H), 9.02 (d, J=2.0 Hz, 1H), 8.26 (d, J=2.0 Hz, 1H), 8.19 (s, 1H), 7.67 (d, J=8.0 Hz, 1H), 7.63 (d, J=8.0 Hz, 1H), 7.54 (t, J=8.0 Hz, 1H), 7.24 (s, 2H), 4.55 (br s, 4H), 3.87 (t, J=4.4 Hz, 4H), 2.12 (s, 3H). LC-MS (ESI): Calculated mass: 442.2; Observed mass [M+H]+: 443.1. (RT=0.18 min).

reactant | tert-butyl (5-(7-(3-aminophenyl)-4-morpholinopyrido[3,2-d]pyrimidin-2-yl)pyrimidin-2-yl)carbamate | 0.0029 mol, 1.6 g | NC=1C=C(C=CC1)C1=CC=2N=C(N=C(C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC(OC(C)(C)C)=O | C26H28N8O3
reactant | DCM | 160 mL | C(Cl)Cl | CH2Cl2
reactant | trifluoroacetic acid | 16 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-(2-(2-Aminopyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)phenyl)acetamide | 0.900 g, 69% | NC1=NC=C(C=N1)C=1N=C(C2=C(N1)C=C(C=N2)C=2C=C(C=CC2)NC(C)=O)N2CCOCC2 | C23H22N8O2
